US04359420
7.2 g (0.04 mol) of 6-fluoroisatoic acid anhydride and 3.9 g (0.044 mol) of sarcosine are added to 10 ml of dimethyl sulphoxide and the mixture is heated at 100° C. for 30 minutes. After cooling and diluting with 15 ml of water, the separated substance is filtered off. After drying, there is obtained 6-fluoro-3,4-dihydro-4-methyl-2H-1,4-benzodiazepine-2,5(1H)-dione of melting point 214°-217° C. (decomposition).

reactant | 6-fluoroisatoic acid anhydride | 0.04 mol, 7.2 g | FC=1C=CC=C2C1C(=O)OC(N2)=O | C8H4FNO3
reactant | sarcosine | 0.044 mol, 3.9 g | N(C)CC(=O)O | C3H7NO2
reactant | dimethyl sulphoxide | 10 ml | CS(=O)C | C2H6OS
solvent | water | 15 ml | O | H2O
product | 6-fluoro-3,4-dihydro-4-methyl-2H-1,4-benzodiazepine-2,5(1H)-dione | FC1=CC=CC2=C1C(N(CC(N2)=O)C)=O | C10H9FN2O2
